US09403798B2
4-(4-Methylthiophen-2-yl)-1,2,3,6-tetrahydropyridine
To a crude product synthesized by using tert-butyl 4-(4-methylthiophen-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate (10.0 mg, 0.358 mmol) in a similar manner to Reference Synthesis Example 26, saturated sodium bicarbonate aqueous solution was added and extraction from the resultant mixture with ethyl acetate was performed. The organic layer was washed with water, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to obtain a crude product of the title compound.

reactant | tert-butyl 4-(4-methylthiophen-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 0.358 mmol, 10.0 mg | CC=1C=C(SC1)C1=CCN(CC1)C(=O)OC(C)(C)C | C15H21NO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 4-(4-Methylthiophen-2-yl)-1,2,3,6-tetrahydropyridine | CC=1C=C(SC1)C=1CCNCC1 | C10H13NS
